US06884821B1
Using 4-isopropoxybenzoic acid and ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate, 2-isopropoxy-3-[3-[(4-isopropoxybenzoyl)amino]methyl-4-methoxyphenyl)propanoic acid was obtained in the same manner as in Example 19d) and then in Example 19e).

reactant | 4-isopropoxybenzoic acid | C(C)(C)OC1=CC=C(C(=O)O)C=C1 | C10H12O3
reactant | ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | NCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C16H25NO4
product | 2-isopropoxy-3-[3-[(4-isopropoxybenzoyl)amino]methyl-4-methoxyphenyl)propanoic acid | C(C)(C)OC(C(=O)O)CC1=CC(=C(C=C1)OC)CNC(C1=CC=C(C=C1)OC(C)C)=O | C24H31NO6
